US05271864
n-bromosuccinimide (5.34 g) is added to a solution of isoprene (2.45 g) in carbon tetrachloride (100 ml), and the solution is stirred for 24 hours. The product and solvent are then fractionally distilled away from the succinimide, resulting in a partially concentrated solution of c-bromomethylbutadiene. The bromomethylbutadiene solution is chilled (-20° C.), and a 2N tetrahydrofuran solution of butylmagnesium bromide (15 ml) is then added. After stirring for 4 hours, the solution is treated with a 1 M phosphate buffer solution (pH 7). The organic layer is dried over sodium sulfate, and the reaction mixture is fractionally distilled to produce the product, 2-pentyl-1,3-butadiene, as a non-viscous liquid.

reactant | bromomethylbutadiene | BrCC=CC=C | C5H7Br
reactant | butylmagnesium bromide | 15 ml | C(CCC)[Mg]Br
reactant | phosphate | 1 M, pH 7 | P(=O)([O-])([O-])[O-]
solvent | tetrahydrofuran | 2N | O1CCCC1 | C4H8O
product | 2-pentyl-1,3-butadiene | C(CCCC)C(=C)C=C | C9H16
